US08859591B2
To a mixture of (+/−)-methyl 4-(2-cyclopropyl-1-(4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)ethyl)benzoate (104 mg, 0.242 mmol) in methanol (1.2 mL) and water (0.2 L) was added lithium hydroxide monohydrate (50.08 mg, 1.21 mmol) at room temperature. The resulting mixture was stirred overnight. The reaction mixture was poured into water and acidified to pH=6 with 1N hydrochloric acid. The solution was extracted with dichloromethane. The organic layer was dried over sodium sulfate, filtered, and concentrated. The residue was dissolved in N,N-dimethylformamide (0.84 mL) and O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (95.8 mg, 0.252 mmol) was added, followed by N-methylmorpholine (50.9 mg, 0.504 mmol). The reaction mixture was stirred for 30 minutes at room temperature. Methyl 3-aminopropionate (23.4 mg, 0.168 mmol) was then added and the reaction was stirred for 48 hours. The reaction mixture was partitioned between brine and ethyl acetate. The aqueous layer was extracted with ethyl acetate. The combined extracts were dried over sodium sulfate, filtered and concentrated. Purification by column chromatography gave (+/−)-methyl 3-(4-(2-cyclopropyl-1-(4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)ethyl)benzamido)propanoate (92 mg, 76%). MS (M+Na): 524.1.

reactant | (+/−)-methyl 4-(2-cyclopropyl-1-(4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)ethyl)benzoate | 0.242 mmol, 104 mg | C1(CC1)CC(OC1=CC=C(C=C1)N1N=CC(=C1)C(F)(F)F)C1=CC=C(C(=O)OC)C=C1 | C23H21F3N2O3
reactant | lithium hydroxide monohydrate | 1.21 mmol, 50.08 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.252 mmol, 95.8 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-methylmorpholine | 0.504 mmol, 50.9 mg | CN1CCOCC1 | C5H11NO
reactant | Methyl 3-aminopropionate | 0.168 mmol, 23.4 mg | NCCC(=O)OC | C4H9NO2
solvent | methanol | 1.2 mL | CO | CH4O
solvent | water | 0.2 L | O | H2O
product | (+/−)-methyl 3-(4-(2-cyclopropyl-1-(4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)ethyl)benzamido)propanoate | 92 mg, 76% | C1(CC1)CC(OC1=CC=C(C=C1)N1N=CC(=C1)C(F)(F)F)C1=CC=C(C(=O)NCCC(=O)OC)C=C1 | C26H26F3N3O4
